US08957066B2
(Ethoxycarbonylmethylene)triphenylphosphorane (0.72 g, 2.05 mmol) was added to a solution of imidazo[1,2-a]pyridine-3-carbaldehyde (0.25 g, 1.71 mmol) in anhydrous tetrahydrofuran (THF) (20 mL) at room temperature. The reaction mixture was heated overnight at 65° C. After completion of the reaction as indicated by HPLC, the reaction mixture was diluted with ethyl acetate (EtOAc) (20 mL) and quenched with a saturated solution of ammonium chloride (10 mL). The organic layer was washed with water (3×20 mL) and brine (15 mL). It was dried over anhydrous Na2SO4, filtered and evaporated to get the crude product. This crude was purified by silica gel column chromatography using 50-80% EtOAc in Hexanes to provide pure (E)-ethyl 3-(imidazo[1,2-a]pyridin-3-yl)acrylate (0.19 g) as a white solid. ES+(M+H)+217.

reactant | (Ethoxycarbonylmethylene)triphenylphosphorane | 2.05 mmol, 0.72 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | imidazo[1,2-a]pyridine-3-carbaldehyde | 1.71 mmol, 0.25 g | N=1C=C(N2C1C=CC=C2)C=O | C8H6N2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (E)-ethyl 3-(imidazo[1,2-a]pyridin-3-yl)acrylate | 0.19 g | N=1C=C(N2C1C=CC=C2)/C=C/C(=O)OCC | C12H12N2O2
